US06184401B2
A solution of 0.055 mol of lithium diisopropylamide (LDA) in 100 ml tetrahydrofuran (THF) was cooled to −78° C. under an inert atmosphere, and 0.055 mol of methyl decanoate in THF was added dropwise with stirring. The mixture was allowed to warm over one hour to −20° C., then cooled again to −78° C. A solution of 1-bromo-2-butyne (0.050 mol) in THF (20 ml) was added dropwise, and the mixture allowed to warm to room temperature overnight. Aqueous 6N HCl (100 ml) was added, and the product extracted with ethyl ether, dried with anhydrous sodium sulfate, concentrated, and distilled in vacuo to provide methyl 2-(2-butynyl)decanoate as an oil.

reactant | lithium diisopropylamide | 0.055 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl decanoate | 0.055 mol | C(CCCCCCCCC)(=O)OC | C11H22O2
reactant | 1-bromo-2-butyne | 0.050 mol | BrCC#CC | C4H5Br
reactant | HCl | 6N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | methyl 2-(2-butynyl)decanoate | C(C#CC)C(C(=O)OC)CCCCCCCC | C15H26O2
